US07786165B2
ethyl 2,2-difluoro-3-{[(4-methylphenyl)sulfonyl]oxy}-3-(4-nitrophenyl)propanoate
To a solution of ethyl 2,2-difluoro-3-hydroxy-3-(4-nitrophenyl)propanoate (800 mg, 2.91 mmol) in pyridine (20 mL) was added dropwise p-toluenesulfonyl chloride (665 mg, 3.49 mmol), and the mixture was stirred at room temperature for 3 days. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-40% ethyl acetate/hexane) to give the title compound (1.09 g, yield 99%) as a colorless oil.

reactant | ethyl 2,2-difluoro-3-hydroxy-3-(4-nitrophenyl)propanoate | 2.91 mmol, 800 mg | FC(C(=O)OCC)(C(C1=CC=C(C=C1)[N+](=O)[O-])O)F | C11H11F2NO5
reactant | p-toluenesulfonyl chloride | 3.49 mmol, 665 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2,2-difluoro-3-{[(4-methylphenyl)sulfonyl]oxy}-3-(4-nitrophenyl)propanoate | 1.09 g, yield 99% | FC(C(=O)OCC)(C(C1=CC=C(C=C1)[N+](=O)[O-])OS(=O)(=O)C1=CC=C(C=C1)C)F | C18H17F2NO7S
